US06352993B1
5,6-dimethyl-2-phenylethylamino-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 2-phenethylamine(0.33 ml, 2.61 mmol) and triethylamine(0.36 ml, 2.59 mmol) were added to a solution of 2-chloro-5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine(0.5 g, 1.74 mmol) in dimethylformamide, 500 mg of the titled compound was obtained in accordance with the same procedure as in Example 1.

reactant | 2-phenethylamine | 2.61 mmol, 0.33 ml | C1=CC=C(C=C1)CCN | C8H11N
reactant | triethylamine | 2.59 mmol, 0.36 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 1.74 mmol, 0.5 g | ClC1=NC(=C(C(=N1)N1C(C2=CC=CC=C2CC1)C)C)C | C16H18ClN3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-phenylethylamino-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 500 mg, Yield: 70.2% | Cl.CC=1C(=NC(=NC1C)NCCC1=CC=CC=C1)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C24H28N4.ClH/c1-17-18(2)26-24(25-15-13-20-9-5-4-6-10-20)27-23(17)28-16-14-21-11-7-8-12-22(21)19(28)3;/h4-12,19H,13-16H2,1-3H3,(H,25,26,27);1H
